US07566712B2
Combine 4-chloro-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine (388 mg, 1 mmol), 3-chlorophenylboronic acid (157 mg, 1 mmol), Pd(P(Ph)3)4 (100 mg, 0.09 mmol), 2M aqueous sodium carbonate (1 mL), and 1,2-dimethoxyethane (5 mL) under nitrogen. Reflux for 16 hours. Evaporate and add water (5 mL), and extract with EtOAc. Dry the organic layer with sodium sulfate and purify by liquid chromatography, to obtain 4-(3-chloro-phenyl)-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine as a white solid.

reactant | 4-chloro-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | 1 mmol, 388 mg | ClC1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)COC | C16H17ClF3N5O
reactant | 3-chlorophenylboronic acid | 1 mmol, 157 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 5 mL | COCCOC | C4H10O2
product | 4-(3-chloro-phenyl)-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)COC | C22H21ClF3N5O
